US07601844B2
(±)-cis-3-(Methoxycarbonyl)cyclohexanecarboxylic acid (500 mg, 2.69 mmol), methylamine, HCl (218 mg, 3.22 mmol), HOBT (493 mg, 3.22 mmol), EDC (618 mg, 3.22 mmol) and triethylamine (0.75 mL, 5.37 mmol) were mixed and stirred in methylene chloride (10 mL) at 25° C. The reaction was stirred overnight then washed with 1N HCl, sat'd sodium bicarbonate, and brine. The organic layer was dried over sodium sulfate and concentrated in vacuo to give (±)-cis-3-(methyl 3-(methylcarbamoyl)cyclohexanecarboxylate (460 mg, 2.309 mmol, 86% yield) as a white glass. MS found: (M+H)+=200.10.

reactant | (±)-cis-3-(Methoxycarbonyl)cyclohexanecarboxylic acid | 2.69 mmol, 500 mg | COC(=O)[C@H]1C[C@H](CCC1)C(=O)O | C9H14O4
reactant | HOBT | 3.22 mmol, 493 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.22 mmol, 618 mg
reactant | triethylamine | 5.37 mmol, 0.75 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 3-(methylcarbamoyl)cyclohexanecarboxylate | 2.309 mmol, 460 mg, 86% yield | CNC(=O)C1CC(CCC1)C(=O)OC | C10H17NO3
